US06235787B1
0.530 ml of a 2M solution of trimethylaluminium in toluene was added to a solution of 0.124 g of O-(tetrahydro-2H-pyran-2(RS)-yl)-hydroxylamine in 5 ml of dry toluene at 0° C. under a nitrogen atmosphere. The mixture was stirred at 0° C. for 0.5 hours and then 0.335 g of 2(R)-[(S)-(benzyloxy)(methoxycarbonyl)methyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide was added in one portion. The mixture was then left to warm to room temperature overnight. The mixture was diluted with ethyl acetate and washed in succession with 2M aqueous hydrochloric acid and 5% aqueous sodium hydrogen carbonate solution and then dried over anhydrous magnesium sulphate. The solvent was evaporated and the residue was triturated with hexane/diethyl ether (2:1) to give 0.119 g of 2(R)-[(S)-(benzyloxy)-[(tetrahydro-2(RS)-pyranyloxy)-carbamoyl]methyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide in the form of a white solid.

reactant | trimethylaluminium | C[Al](C)C
reactant | O-(tetrahydro-2H-pyran-2(RS)-yl)-hydroxylamine | 0.124 g | O1C(CCCC1)ON | C5H11NO2
reactant | 2(R)-[(S)-(benzyloxy)(methoxycarbonyl)methyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide | 0.335 g | C(C1=CC=CC=C1)O[C@@H]([C@H](C(=O)NN(S(=O)(=O)C)CC(C)C)CC(C)C)C(=O)OC | C21H34N2O6S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2(R)-[(S)-(benzyloxy)-[(tetrahydro-2(RS)-pyranyloxy)-carbamoyl]methyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide | 0.119 g | C(C1=CC=CC=C1)O[C@@H]([C@H](C(=O)NN(S(=O)(=O)C)CC(C)C)CC(C)C)C(NOC1OCCCC1)=O | C25H41N3O7S
